US08168788B2
4-(4-Chloro-phenyl)-1-[(3S,4S)-1-(7-chloro-quinazolin-4-yl)-4-hydroxy-pyrrolidin-3-yl]-piperidin-4-ol
The title compound was prepared following general procedures described above from 4-(4-Chlorophenyl)-1-(4-hydroxy-pyrrolidin-3-yl)-piperidin-4-ol and 4,7-dichloroquinazoline. 1H-NMR (300 MHz, DMSO): δ 1.57 (2H, m), 1.90 (2H, m), 2.60-2.70 (3H, m), 2.96 (2H, m), 3.70 (1H, m), 3.85 (1H, m), 4.10 (2H, m), 4.36 (1H, m), 4.90 (1H, s), 5.32 (1H, d), 7.40 (4H, dd), 7.48 (1H, m), 7.73 (1H, d), 8.30 (1H, d), 8.45 (1H, s). Retention Time (LC, method, AA standard): 1.48 min MS (M+H+): 459.

reactant | 4-(4-Chlorophenyl)-1-(4-hydroxy-pyrrolidin-3-yl)-piperidin-4-ol | ClC1=CC=C(C=C1)C1(CCN(CC1)C1CNCC1O)O | C15H21ClN2O2
reactant | 4,7-dichloroquinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
product | 4-(4-Chloro-phenyl)-1-[(3S,4S)-1-(7-chloro-quinazolin-4-yl)-4-hydroxy-pyrrolidin-3-yl]-piperidin-4-ol | ClC1=CC=C(C=C1)C1(CCN(CC1)[C@H]1CN(C[C@@H]1O)C1=NC=NC2=CC(=CC=C12)Cl)O | C23H24Cl2N4O2
